US07241791B2
Step 2: 4-(1-isopropyl-7-methyl-1H-indazol-3-yl)phenol
Prepared according to Method D step C from 1-isopropyl-3-(4-methoxyphenyl)-7-methyl-1H-indazole (0.057 g, 0.20 mmol), boron tribromide (0.094 mL, 1.0 mmol) and 0.3 mL of cyclohexene to give the product (0.027 g) as an off-white solid.

reactant | 1-isopropyl-3-(4-methoxyphenyl)-7-methyl-1H-indazole | 0.20 mmol, 0.057 g | C(C)(C)N1N=C(C2=CC=CC(=C12)C)C1=CC=C(C=C1)OC | C18H20N2O
reactant | boron tribromide | 1.0 mmol, 0.094 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 0.3 mL | C1=CCCCC1 | C6H10
product | 4-(1-isopropyl-7-methyl-1H-indazol-3-yl)phenol | 0.027 g | C(C)(C)N1N=C(C2=CC=CC(=C12)C)C1=CC=C(C=C1)O | C17H18N2O
